US04007179
(3) 2-(2-Isopropyl-1-oxoindan-6-yl)propionic acid (I)
To 120 ml. of conc. sulfuric acid was added 26g. of 2-[4-(2-carboxy-3-methylbutyl)phenyl]propionic acid and the mixture was heated at 100° C. for 3 hours. The mixture was poured into ice-water and extracted with ether. The extract was washed with water, dried over anhydrous sodium sulfate and evaporated to dryness. The residue was subjected to vacuum distillation to give 15.7g. of the desired product boiling at 184° C./0.002 mmHg. as a colorless oil.

reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | 2-[4-(2-carboxy-3-methylbutyl)phenyl]propionic acid | C(=O)(O)C(CC1=CC=C(C=C1)C(C(=O)O)C)C(C)C | C15H20O4
product | 2-(2-Isopropyl-1-oxoindan-6-yl)propionic acid | C(C)(C)C1C(C2=CC(=CC=C2C1)C(C(=O)O)C)=O | C15H18O3
